US04645777
To a stirred suspension of 1.2 grams (0.025 mole) of sodium cyanide in 70 ml of dimethylformamide was added dropwise a solution of 5.2 grams (10 moles) of freshly distilled benzaldehyde in 40 ml of dimethylformamide. The complete addition required 20 minutes. The reaction mixture was stirred for one hour. Separately, while the mixture stirred, 10.0 grams (0.043 mole) of 3-dimethylamino-1-(5-methyl-2-thienyl)propan-1-one hydrochloride was made alkaline in water with ammonium hydroxide, extracted with ethyl acetate, dried with sodium sulfate, filtered and concentrated. The so-prepared free Mannich base was dissolved in 40 ml of dimethylformamide and added dropwise to the benzaldehyde/sodium cyanide reaction mixture. The complete addition required one hour. The reaction mixture was stirred for an additional 16 hours, then concentrated under reduced pressure to a residual solid. The solid was taken up in water and extracted with three 100 ml portions of chloroform. The combined extracts were washed with water and dried with sodium sulfate. The organic layer was concentrated under reduced pressure to a solid residue. The solid was recrystallized from ethanol-water to give 8.3 grams of 1-phenyl-4(5-methyl-2-thienyl)-1,4-butanedione; m.p. 122.5° C.

reactant | sodium cyanide | 0.025 mole, 1.2 grams | [C-]#N.[Na+]
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | 3-dimethylamino-1-(5-methyl-2-thienyl)propan-1-one hydrochloride | 0.043 mole, 10.0 grams | Cl.CN(CCC(=O)C=1SC(=CC1)C)C
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-phenyl-4(5-methyl-2-thienyl)-1,4-butanedione | 8.3 grams | C1(=CC=CC=C1)C(CCC(=O)C=1SC(=CC1)C)=O | C15H14O2S
